US07595405B2
3-(5-Chloro-pyridin-2-yl)-5-(5-isopropyl-tetrazol-1-yl)-benzoic acid (650 mg, 1.89 mmol), C-(5-methyl-pyrazin-2-yl)-methylamine (233 mg, 1.89 mmol), EDCI (362 mg, 1.89 mmol), HOBt (255 mg, 1.89 mmol) and Et3N (1.32 mL, 9.45 mmol) were added to 10 mL methylene chloride. The reaction mixture was stirred at room temperature for 18 hours, then was partitioned between water and methylene chloride. The combined organic layers were dried (MgSO4), filtered and concentrated under reduced pressure. The resulting residue was purified via flash chromatography (80-100% EtOAc/hexanes) to give 492 mg of 3-(5-chloro-pyridin-2-yl)-5-(5-isopropyl-tetrazol-1-yl)-N-(5-methyl-pyrazin-2-ylmethyl)-benzamide, MS (M+H)=449.

reactant | 3-(5-Chloro-pyridin-2-yl)-5-(5-isopropyl-tetrazol-1-yl)-benzoic acid | 1.89 mmol, 650 mg | ClC=1C=CC(=NC1)C=1C=C(C(=O)O)C=C(C1)N1N=NN=C1C(C)C | C16H14ClN5O2
reactant | C-(5-methyl-pyrazin-2-yl)-methylamine | 1.89 mmol, 233 mg | CC=1N=CC(=NC1)CN | C6H9N3
reactant | EDCI | 1.89 mmol, 362 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.89 mmol, 255 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 9.45 mmol, 1.32 mL | CCN(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-chloro-pyridin-2-yl)-5-(5-isopropyl-tetrazol-1-yl)-N-(5-methyl-pyrazin-2-ylmethyl)-benzamide | 492 mg | ClC=1C=CC(=NC1)C=1C=C(C(=O)NCC2=NC=C(N=C2)C)C=C(C1)N1N=NN=C1C(C)C | C22H21ClN8O
